data/core_train_final.csv
"[H:3][C:4]1([CH2:6][CH2:7][CH:8]=[CH:9]1)[H:5].[Br:1]>>[H:3][C:4]1[CH2:6][CH2:7][CH:8]=[CH:9]1.[H:5][Br:1] 1-1,5;4,5-4;4,5-1,5",Room Temperature,Propagation,abstraction
"CCC1=CC=CC=C1.[Br:20][Br:21].[Ar]>>[Ar].CCC1=CC=CC=C1.[Br:20].[Br:21] 20,21-20;20,21-21",Heat,Initiation,homolyze
"[CH3:6][C:5](=[O:7])[C:4]1=[C:3]([CH:11]=[CH:10][CH:9]=[CH:8]1)[CH2:2][CH2:1].[I:12][I:13]>>[CH3:6][C:5](=[O:7])[C:4]1=[C:3]([CH:11]=[CH:10][CH:9]=[CH:8]1)[CH2:2][CH2:1][I:12].[I:13] 13,12-12,1; 1-12,1; 13,12-13",Room Temperature,Propagation,abstraction
"CCOC(=O)C(C)(CC1=CCC(CC1)[C:10](C)C)CC(C)(C)C#N.CC1(C2CC[C:21](=[CH2:20])C1C2)C>>CCOC(=O)C(C)(CC1=CCC(CC1)[C:10](C)(C)[CH2:20][C:21]2CCC3CC2C3(C)C)CC(C)(C)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[Na]O[C:10](C1=CC=CC=C1)C2=CC=CC=C2.[Na]O[C:20](C3=CC=CC=C3)C4=CC=CC=C4>>[Na]O[C:10](C5=CC=CC=C5)([C:20](C6=CC=CC=C6)(C7=CC=CC=C7)O[Na])C8=CC=CC=C8 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCC/C=C\[CH:13]=[CH:12]\[CH:11]\C/C=C\C/C=C\CCCC(=O)O.[O:20][O:21]>>CCCCC/C=C\[CH:13]=[CH:12]\[CH:11]([O:20][O:21])\C/C=C\C/C=C\CCCC(=O)O 11-11,20;20-11,20",Room Temperature,Termination,recombine
"[CH3:10].[Cl:20][Cl:21].[Cl]>>[Cl].[CH3:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:5][C:6]1([CH2:8][CH2:9][CH2:10][CH2:11]1)[H:7].[C:2]([I:1])([I:3])[I:4]>>[H:5][C:6]1[CH2:8][CH2:9][CH2:10][CH2:11]1.[H:7][C:2]([I:1])([I:3])[I:4] 2-2,7;6,7-2,7;6,7-6",Room Temperature,Propagation,abstraction
"[H:20][Sn:21](CCCC)(CCCC)CCCC.[Br:10]>>[H:20][Br:10].CCCC[Sn:21](CCCC)CCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC[CH:10]CC.[Br:20][Br:21]>>CCC[CH:10](CC)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:10]1CCCC(C1)(C)C.[Br:20][Br:21]>>CC1(CCC[C:10](C1)(C)[Br:20])C.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C/[CH:20]=[CH:21]/C1=CC=CC=C1.[Br:10]>>C[CH:20]([CH:21]C1=CC=CC=C1)[Br:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:6][C:3]([CH3:7])([CH2:4][CH3:5])[CH:2]=[CH2:1].[Br:9]>>[H:6][Br:9].[CH3:5][CH2:4][C:3]([CH3:7])[CH:2]=[CH2:1] 9-6,9;3,6-6,9;3,6-3",Room Temperature,Propagation,abstraction
"CC(C)(C)C.[Br:20][Br:21].[He]>>[He].CC(C)(C)C.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[CH2:20]=[C:21]1CCCCC1.[Br:10]>>C1CC[C:21](CC1)[CH2:20][Br:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C[C:21](=[CH:20]CCC(C)([CH:10]CSCCC1=CC=CC=C1)OC(=O)C)C(=O)OC>>C[C:21]([CH:20]1CCC(C)([CH:10]1CSCCC2=CC=CC=C2)OC(=O)C)C(=O)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC([CH2:10])CCC(C)(C)C.[Cl:20][Cl:21]>>CC(CCC(C)(C)C)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:19][C:18]([CH3:26])([CH2:20][CH:21]1[CH2:25][CH2:24][CH:23]=[CH:22]1)[CH2:17][O:16][C:15](=[S:14])[N:27]2[CH:28]=[CH:29][N:30]=[CH:31]2.[CH3:1][Si:2]([CH3:3])([CH3:4])[Si:5]([Si:6]([CH3:7])([CH3:8])[CH3:9])[Si:10]([CH3:11])([CH3:12])[CH3:13]>>[CH3:19][C:18]([CH3:26])([CH2:20][CH:21]1[CH2:25][CH2:24][CH:23]=[CH:22]1)[CH2:17][O:16][C:15]([N:27]2[CH:28]=[CH:29][N:30]=[CH:31]2)[S:14][Si:5]([Si:10]([CH3:12])([CH3:13])[CH3:11])([Si:2]([CH3:4])([CH3:3])[CH3:1])[Si:6]([CH3:8])([CH3:9])[CH3:7] 5-5,14; 14,15-5,14; 14,15-15",Room Temperature,Propagation,addition
"C1=CC=C(C=C1)[CH:10]Cl.[Cl:20][Cl:21]>>C1=CC=C(C=C1)[CH:10](Cl)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][C:2]([CH2:15][C:16](=[CH:18][CH2:19])[CH3:17])([CH2:20][NH2:21])[NH:3][CH2:4][CH2:5][N+:6]([H:7])([H:14])[CH2:8][CH2:9][NH:10][CH2:11][CH2:12][NH2:13].[CH3:22][C:23](=[CH2:26])[CH:24]=[CH2:25]>>[H:1][C:2]([CH2:15][C:16](=[CH:18][CH2:19][CH2:26][C:23](=[CH:24][CH2:25])[CH3:22])[CH3:17])([CH2:20][NH2:21])[NH:3][CH2:4][CH2:5][N+:6]([H:7])([H:14])[CH2:8][CH2:9][NH:10][CH2:11][CH2:12][NH2:13] 19-19,26; 23,26-19,26; 23,26-23,24; 24,25-23,24; 24,25-25",Room Temperature,Propagation,addition
"CCCCCCCCCCCC(C1CCC1)C(=O)[O:21][N:20]2C=CC=C[C:10]2S[Sn](CCCC)(CCCC)CCCC>>CCCCCCCCCCCC(C1CCC1)C(=O)[O:21].CCCC[Sn](CCCC)(CCCC)S[C:10]1=[N:20]C=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[CH3:1][C:2]([CH3:3])[CH3:4].[O:5]=[S:6](=[O:9])([Cl:7])[Cl:8]>>[CH3:1][C:2]([CH3:3])([CH3:4])[Cl:8].[O:5]=[S:6](=[O:9])[Cl:7] 2-2,8; 6,8-6; 6,8-8,2",Room Temperature,Propagation,abstraction
"O=S(C1=CC=C(C)C=C1)(N(C[CH:10]CCCCCCC)C[CH:20]=[CH2:21])=O>>O=S(C2=CC=C(C)C=C2)(N(C[CH:10]3CCCCCCC)C[CH:20]3[CH2:21])=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC[C:20](CC)CC.[Cl:10][Cl:11]>>CC[C:20](CC)(CC)[Cl:10].[Cl:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[H:20][Br:21].C1=CC=C(C=C1)C(=O)[O:10]>>[H:20][O:10]C(=O)C1=CC=CC=C1.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
